US05977219
5-Octylthio-2-(2-hydroxy-3-α-cumyl-5-tert-octylphenyl)-2H-benzotriazole
Using the procedure of Example 6 with 5-chloro-2-(2-hydroxy-3-α-cumyl-5-tert-octylphenyl)-2H-benzotriazole and octyl mercaptan, the title compound is prepared.

reactant | 5-chloro-2-(2-hydroxy-3-α-cumyl-5-tert-octylphenyl)-2H-benzotriazole | ClC1=CC=2C(=NN(N2)C2=C(C(=CC(=C2)C(C)(C)CC(C)(C)C)C(C)(C)C2=CC=CC=C2)O)C=C1 | C29H34ClN3O
reactant | octyl mercaptan | C(CCCCCCC)S | C8H18S
product | 5-Octylthio-2-(2-hydroxy-3-α-cumyl-5-tert-octylphenyl)-2H-benzotriazole | C(CCCCCCC)SC1=CC=2C(=NN(N2)C2=C(C(=CC(=C2)C(C)(C)CC(C)(C)C)C(C)(C)C2=CC=CC=C2)O)C=C1 | C37H51N3OS
